US07687627B2
(S)-N-{3-[4-(4-Fluoro-4-methoxymethylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The title compound was prepared by reacting ((S)-N-{3-[4-(4-hydroxy-4-methoxymethylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (1.37 mmol) with DAST (4.10 mmol) in dichloromethane (10 ml) at a temperature 0° C. for one hour and by purifying the compound by silica gel column chromatography in 68% yield.

reactant | (S)-N-{3-[4-(4-hydroxy-4-methoxymethylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 1.37 mmol | OC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)COC | C19H26FN3O5
reactant | DAST | 4.10 mmol | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (S)-N-{3-[4-(4-Fluoro-4-methoxymethylpiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 68% yield | FC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)COC | C19H25F2N3O4
